US04474692
By reacting L-alanyl-N-(indan-2-yl)glycine tert-butyl ester oxalate (2.0 g) with N-butyl-2-oxo-4-phenylbutyrylamide (4.0 g) in a similar manner to that of Example 2, there is obtained N-(1-butylaminocarbonyl-3-phenylpropyl)-L-alanyl-N-(indan-2-yl)glycine tert-butyl ester (0.5 g) as colorless oil.

reactant | L-alanyl-N-(indan-2-yl)glycine tert-butyl ester oxalate | 2.0 g | C(C(=O)O)(=O)O.C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N)C)=O)=O
reactant | N-butyl-2-oxo-4-phenylbutyrylamide | 4.0 g | C(CCC)[N-]C(C(CCC1=CC=CC=C1)=O)=O
product | N-(1-butylaminocarbonyl-3-phenylpropyl)-L-alanyl-N-(indan-2-yl)glycine tert-butyl ester | 0.5 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](NC(CCC1=CC=CC=C1)C(=O)NCCCC)C)=O)=O | C32H45N3O4
